US07074800B1
Using an analogous procedure to that described in Example 91, 7-hydroxy-4-(indol-5-yloxy)-6-methoxyquinazoline (89 mg) was reacted with 2-(2-methoxyethoxy)ethanol (70 mg) to give 4-(indol-5yloxy)-6-methoxy-7-(2-(2-methoxyethoxy)ethoxy)quinazoline (50 mg, 42%).

reactant | 7-hydroxy-4-(indol-5-yloxy)-6-methoxyquinazoline | 89 mg | OC1=C(C=C2C(=NC=NC2=C1)OC=1C=C2C=CNC2=CC1)OC | C17H13N3O3
reactant | 2-(2-methoxyethoxy)ethanol | 70 mg | COCCOCCO | C5H12O3
product | 4-(indol-5yloxy)-6-methoxy-7-(2-(2-methoxyethoxy)ethoxy)quinazoline | 50 mg, 42% | N1C=CC2=CC(=CC=C12)OC1=NC=NC2=CC(=C(C=C12)OC)OCCOCCOC | C22H23N3O5
